US09079909B2
To a suspension of N-(3-(4-fluorophenyl)-1-(2-hydroxyethyl)-4-(phenylethynyl)-1H-pyrazol-5-yl)acetamide (269 mg, 0.74 mmol) in CH2Cl2 (9 mL) and triethylamine (155 μl, 1.11 mmol) was added methanesulphonyl chloride (65 μl, 0.81 mmol and the reaction stirred at room temperature for 16 h. The reaction mixture was poured onto ice/water and the organic layer was dried over MgSO4, filtered and evaporated. The crude product was dissolved in THF (10 ml) and morpholine (320 μl, 3.7 mmol) was added. The reaction was heated to 55° C. for 24 h before evaporating the solvent in vacuo. The crude was partitioned between CH2Cl2 and dilute aqueous NaHCO3 and the organic layer was dried over MgSO4, filtered and evaporated. Purification using chromatography (silica gel, gradient 0 to 10% methanol/CH2Cl2) gave N-(3-(4-fluorophenyl)-1-(2-morpholinoethyl)-4-(phenylethynyl)-1H-pyrazol-5-yl)acetamide as a white solid (141 mg) which was used as such in the subsequent step.

reactant | N-(3-(4-fluorophenyl)-1-(2-hydroxyethyl)-4-(phenylethynyl)-1H-pyrazol-5-yl)acetamide | 0.74 mmol, 269 mg | FC1=CC=C(C=C1)C1=NN(C(=C1C#CC1=CC=CC=C1)NC(C)=O)CCO | C21H18FN3O2
reactant | triethylamine | 1.11 mmol, 155 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | morpholine | 3.7 mmol, 320 μl | N1CCOCC1 | C4H9NO
solvent | CH2Cl2 | 9 mL | C(Cl)Cl | CH2Cl2
product | N-(3-(4-fluorophenyl)-1-(2-morpholinoethyl)-4-(phenylethynyl)-1H-pyrazol-5-yl)acetamide | 141 mg | FC1=CC=C(C=C1)C1=NN(C(=C1C#CC1=CC=CC=C1)NC(C)=O)CCN1CCOCC1 | C25H25FN4O2
